### PR TITLE
draft: Update Revm v103 memory mload simulate slice

### PR DESCRIPTION
**Pull request by gaberlunzie1**

### CODE REVIEW

File: RocqOfRust/revm/revm_interpreter/instructions/links/memory/mload.v [hunk 1]
```diff
@@ -31,24 +31,17 @@ Instance run_mload
...
-    (@Impl_Interpreter.run_halt_memory_oog WIRE H0 WIRE_types H2 run_InterpreterTypes_for_WIRE_copy)
-    as run_halt_memory_oog_for_WIRE.
-  pose proof
-    (@Impl_Interpreter.run_halt_underflow WIRE H0 WIRE_types H2 run_InterpreterTypes_for_WIRE_copy)
-    as run_halt_underflow_for_WIRE.
-  pose proof
-    (@Impl_Interpreter.run_halt WIRE H0 WIRE_types H2 run_InterpreterTypes_for_WIRE_copy)
-    as run_halt_for_WIRE.
   run_symbolic.
+  all: try eapply Impl_Interpreter.run_halt_memory_oog.
```
Comment (cascade77) [inline RocqOfRust/revm/revm_interpreter/instructions/links/memory/mload.v]: Maybe make these explicit instead of using `all: try`?

I think it would be clearer to show the actual goals left after `run_symbolic`, with braces. Otherwise some of these lines might be doing nothing and still keep compiling.

File: RocqOfRust/revm/revm_interpreter/instructions/simulate/memory/mload.v [hunk 2]
```diff
@@ -82,28 +87,45 @@ Lemma mload_eq
...
+        reflexivity.
+      }
+      s.
+  - change {| Integer.value := 32 |} with (32 : usize).
+    rewrite Heqp; cbn.
+    s. {
+      eapply halt_memory_oog_eq;
+        try exact InterpreterTypesEq.
+    }
+    repeat s.
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/instructions/simulate/memory/mload.v]:
```suggestion
    s.
```
If I remember well, the `repeat` is already included.

**Review by cascade77 — APPROVED** [review]
thanks, approved!

**Review by clarus — APPROVED** [review]
